US07834012B2
tert-butyl 4-fluoro-3-hydroxybenzoate
4-Fluoro-3-hydroxybenzoic acid (500 mg, 3.2 mmol) was stirred in toluene (4 mL) and heated to 80° C. N,N-dimethylformamide di-t-butyl acetal (1.9 ml, 7.97 mmol) was added in portions. The mixture was stirred for 2 hours at , and then concentrated. It was purified by column chromatography (eluting with 0-70% acetonitrile/water and 0.1% trifluoroacetic acid) to give the title compound (300 mg, 44%). MS (DCI) m/z 213 (M+H)+.

reactant | 4-Fluoro-3-hydroxybenzoic acid | 3.2 mmol, 500 mg | FC1=C(C=C(C(=O)O)C=C1)O | C7H5FO3
reactant | N,N-dimethylformamide di-t-butyl acetal | 7.97 mmol, 1.9 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-fluoro-3-hydroxybenzoate | 300 mg, 44% | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)O | C11H13FO3
